US06881736B1
(e) Ethyl (±)-4-(4-hydroxyphenyl)-3-(pyridin-3-yl)butanoate
A mixture of ethyl 4-(4-benzyloxyphenyl)-3-(pyridin-3-yl)but-2-enoate (1.73 mmole) and 10% Pd/C (200 mg) in EtOH (10 mL) was shaken under H2 (50 psi) on a Parr apparatus. After 4 hr, the mixture was filtered through celite®d and the filtrate was concentrated. Flash chromatography on silica gel (50% EtOAc/hexanes) gave the impure title compound (327 mg, 66% over three steps) as a yellow oil: MS (ES) m/e 286 (M+H)+. This material was used without further purification.

reactant | ethyl 4-(4-benzyloxyphenyl)-3-(pyridin-3-yl)but-2-enoate | 1.73 mmole | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=CC(=O)OCC)C=1C=NC=CC1 | C24H23NO3
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | Ethyl (±)-4-(4-hydroxyphenyl)-3-(pyridin-3-yl)butanoate | 327 mg, 66% | OC1=CC=C(C=C1)CC(CC(=O)OCC)C=1C=NC=CC1 | C17H19NO3
